Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
progressive lower extremity edema, electrolyte
abnormalities, and abnormal imaging findings
 
Major Surgical or Invasive Procedure:
Bronchoscopy (___)

 
History of Present Illness:
Mr. ___ is a ___ year old male with history of relapsed AML
treated with multiple rounds of chemotherapy and MRD alloHSCT
with MAC (D0 ___, currently +301) complicated by
steroid-refractory GI-GVHD, C. difficile colitis, CMV viremia, 
BK
virus, and recent VRE/E.coli bacteremia presenting from clinic
with progressive lower extremity edema, electrolyte
abnormalities, and abnormal imaging findings. 

Mr. ___ was recently discharged from ___ after a prolonged
hospitalization for GI-GVHD flare, BK cystitis, incidental E.
coli bacteremia and VRE bacteremia, and pulmonary nodules with
positive BDG concerning for fungal infection. He was discharged
on a course of ceftriaxone and daptomycin with oral vancomycin
prophylaxis given history of C. dif (last scheduled dose
___ with plan to repeat CT CHEST on ___. 

Since discharge, he states that he has been feeling overall well
with stable diarrhea and improved form of stools. No fevers,
chills, or chest pain however does note upper respiratory
symptoms preceding new new cough productive of white sputum over
the last several days, and both of his children have had upper
respiratory symptoms recently, and has continued to smoke
cigarettes intermittently. Notably, he has continued to use
recreational marijuana. He has also noticed increasing 
difficulty
ambulating attributed to worsening proximal muscle weakness and 
increased lower extremity edema. 

On ___, Mr. ___ was seen in clinic by Dr. ___
noted to have worsening lower extremity edema, weakness and
fatigue. Labs were notable for Hg 7.9, WBC 8.2 (___ 6720), Plt
36, K 3.1, and Cr 0.8. CT CHEST (___) ordered to assess 
interval
changes in pulmonary nodules demonstrated new multifocal
pneumonia and redemonstration of multiple bilateral 
peribronchial
nodules, some demonstrating cavitation, with slight interval
increase in size of two nodules.
 
Past Medical History:
ONCOLOGIC HISTORY:
___ INITIAL BMBX  AML
___ Consented to  protocol ___  INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2)  (RHP: +NPM1, +IDH2,+ RAD21)
___  D+14 BMBx ablated, 
___  D+26 remission, NPM1 negative
___ C1D1 HIDAC
___ admitted for fever
___ CT showed perianal abscess, drained, improved with
antibiotics
___ - C2D1 HIDAC, complicated by fevers and rash after 4 
of 6 doses attributed to possible cytarabine syndrome, all
resolved with higher dexamethasone premedication. also received
neulasta on D9
___ - C3D1 HIDAC, complicated by neutropenic fever, 
empiric antibiotics without complications or infectious source
___ - taken off of active study protocol (control arm) due
to patient preference to avoid frequent visits and tests;
consented to be followed by the study for survival/outcome data
___ - initiation of therapy for relapsed AML on trial
___
----lenalidomide 50 mg D1-10
----MEC D4-8
___ - admitted for alloHSC transplant
- Flu/Bu ablation chemotherapy ___
- Allogeneic stem cell transplant ___
- Discharged ___ - Bone marrow biopsy w/no morphologic evidence of AML,
negative NPM1 and myeloid sequencing panels
---- COMPLICATIONS: neutropenic fever, c.diff colitis, SCoN
bacteremia, ___ abscess

REVIEW OF SYSTEMS: otherwise negative

PAST MEDICAL HISTORY:
- Recurrent clostridioides colitis
- genital warts
- Hernia s/p mesh ___ years ago
 
Social History:
___
Family History:
Mother had lung cancer
Father had some type of metastatic cancer extensively involving
the bones
No history of any hematologic disorders including leukemia or
lymphoma
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: Reviewed in ___
General: appears comfortable, sitting upright in bed
HEENT: NC/AT, MMM, no oral lesions
Lungs: symmetric expansion, +expiratory wheezing, +inspiratory
rhonchi
Heart: RRR, no M/R/G, 2+ radial pulses bilaterally
Abdomen: soft, non-distended, non-tender, +minimal BS
Extremities: warm, ___ bilateral lower extremity edema
Skin: scattered superficial bruising on R/L forearms
Neuro: 
  - alert, oriented, appropriate, fluent
  - PERRLA, EOMI, CN intact
  - ___ shoulder, ___ tricep, ___ bicep, ___ hand grip
Psych: appropriate affect and judgement
Access: RUE PICC non-erythematous

DISCHARGE PHYSICAL EXAM:
========================
VS: 24 HR Data (last updated ___ @ 524)
    Temp: 98.5 (Tm 98.5), BP: 135/74 (123-158/63-86), HR: 75
(66-81), RR: 20 (___), O2 sat: 98% (97-100), O2 delivery: RA,
Wt: 169.1 lb/76.7 kg  
General: appears comfortable, sitting upright in bed
HEENT: NC/AT, MMM, no oral lesions
Lungs: symmetric expansion, +expiratory wheezing, +inspiratory
rhonchi, similar to day prior
Heart: RRR, no M/R/G
Abdomen: soft, non-distended, non-tender
Extremities: warm, 2+ bilateral lower extremity edema, improved
from day prior with elevation
Skin: scattered superficial bruising on R/L forearms
Neuro: alert, oriented, appropriate, fluent, moves all
extremities spontaneously without FND
Psych: appropriate
 
Pertinent Results:
INITIAL LABS
============
___ 11:30AM BLOOD WBC-8.2 RBC-2.27* Hgb-7.9* Hct-24.1* 
MCV-106* MCH-34.8* MCHC-32.8 RDW-21.1* RDWSD-80.5* Plt Ct-36*
___ 11:30AM BLOOD Neuts-76* Bands-6* Lymphs-12* Monos-3* 
Eos-0* ___ Metas-1* Myelos-2* NRBC-2.0* AbsNeut-6.72* 
AbsLymp-0.98* AbsMono-0.25 AbsEos-0.00* AbsBaso-0.00*
___ 07:30PM BLOOD ___ PTT-22.6* ___
___ 11:30AM BLOOD UreaN-26* Creat-0.8 Na-142 K-3.2* Cl-106 
HCO3-22 AnGap-14
___ 11:30AM BLOOD ALT-46* AST-30 LD(LDH)-625* AlkPhos-83 
TotBili-0.3
___ 11:30AM BLOOD Calcium-8.1* Phos-2.9 Mg-1.5*
___ 12:41AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:41AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-150* Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.5 
Leuks-NEG
___ 12:41AM URINE RBC-<1 ___ Bacteri-FEW* Yeast-NONE 
Epi-<1

MICROBIOLOGY
============
___ 12:21PM OTHER BODY FLUID FluAPCR-NEG FluBPCR-NEG

___ 12:41 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 6:12 am SEROLOGY/BLOOD      Source: Line-PICC. 

                            **FINAL REPORT ___

   CRYPTOCOCCAL ANTIGEN (Final ___: 
      CRYPTOCOCCAL ANTIGEN NOT DETECTED. 
           (Reference Range-Negative). 
      Test performed by Lateral Flow Assay. 
      A negative serum does not rule out localized or 
disseminated
      cryptococcal infection. 
      Appropriate specimens should be sent for culture. 

CRYPTOCOCCAL ANTIGEN (Final ___: not detected

BRONCHOALVEOLAR LAVAGE (___)
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 

   RESPIRATORY CULTURE (Final ___: 
      ~8000 CFU/mL Commensal Respiratory Flora. 

   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED. 

   Immunofluorescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   NOCARDIA CULTURE (Preliminary): 
      NO NOCARDIA ISOLATED. 
      MOLD. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.

Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

Respiratory Viral Antigen Screen (Final ___: 
      Less than 60 columnar epithelial cells;. 
      Inadequate specimen for DFA detection of respiratory 
viruses.. 
      Interpret all negative DFA and/or culture results from 
this specimen
      with caution.. 
      Negative results should not be used to discontinue 
precautions.. 
      Recommend new sample be submitted for confirmation.. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 
      Reported to and read back by ___, MD (___), 
___ @
      13:14. 

IMAGING
=======
CXR (___):
The tip of the right PICC projects over the mid SVC. There is no 
focal consolidation, pleural effusion or pneumothorax 
identified. Patchy mid to lower lung opacities are present. 
Known cavitary and non cavitary lung nodules are not well 
visualized on this exam. IMPRESSION: The tip of the right PICC 
projects over the mid SVC. Patchy mid to lower lung opacities 
likely reflect multifocal pneumonia, better evaluated on the CT 
chest performed earlier today.

BILAT LOWER EXT VEINS (___):
1. No evidence of deep venous thrombosis in the right or left 
lower extremity veins. 2. Moderate right ___ cyst, not seen 
on the previous study.

OTHER RESULTS
=============
___ 11:30AM BLOOD  WBC-8.2 Lymph-12* Abs ___ CD3%-71 
Abs CD3-702 CD4%-14 Abs CD4-136* CD8%-58 Abs CD8-566 
CD4/CD8-0.24*
___ 08:55AM BLOOD tacroFK-6.7

DISCHARGE LABS
==============
___ 05:19AM BLOOD WBC-4.2 RBC-2.39* Hgb-7.9* Hct-24.6* 
MCV-103* MCH-33.1* MCHC-32.1 RDW-23.6* RDWSD-88.7* Plt Ct-37*
___ 05:19AM BLOOD Neuts-70 Bands-1 Lymphs-16* Monos-3* 
Eos-0* ___ Metas-4* Myelos-6* NRBC-2.9* AbsNeut-2.98 
AbsLymp-0.67* AbsMono-0.13* AbsEos-0.00* AbsBaso-0.00*
___ 07:30PM BLOOD ___ PTT-22.6* ___

___ 05:19AM BLOOD Glucose-113* UreaN-16 Creat-0.6 Na-142 
K-4.1 Cl-108 HCO3-26 AnGap-8*
___ 05:19AM BLOOD ALT-29 AST-20 LD(LDH)-534* AlkPhos-62 
TotBili-0.3
___ 05:19AM BLOOD Albumin-2.5* Calcium-7.8* Phos-3.1 Mg-1.7
___ 05:42AM BLOOD Hapto-204*
___ 06:12AM BLOOD CMV VL-NOT DETECT
 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
=====================
Mr. ___ is a ___ year old mane with history of relapsed AML 
treated with multiple rounds chemotherapy and MRD alloHSCT with 
MAC (D0 ___ complicated by steroid-refractory GI-GVHD, C. 
difficile colitis, CMV viremia, and recent VRE/E.coli bacteremia 
who presented from clinic with multifocal pneumonia, progressive 
cavitary pulmonary nodules, and worsening lower extremity edema 
found to have aspergillosis despite prophylaxis with 
posaconazole with adequate levels and started on isavuconazole.

ACTIVE ISSUES
=============
# Multifocal pneumonia
Mr. ___ presented from clinic after CT CHEST (___) obtained 
to assess interval changes in cavitary lung lesions demonstrated 
new multifocal pneumonia. His only reported symptom was 
productive cough. He was empirically broadened from his home 
antibiotics specified below to meropenem with improvement in his 
cough. RVP negative. Induced sputum gram stain and PCP culture 
were negative. Fungal cultures pending. BCx all were negative. 
Bronchoscopy lavage samples positive for aspergillus 
galactomannan antigen on two different samples. He was 
discharged on isavuconazole and continued on prophylactic 
Bactrim with stable platelet count. 

# Cavitary pulmonary nodules
On his last admission, Mr. ___ was incidentally found to 
have multifocal lung lesions. Interval CT CHEST (___) 
demonstrated progression of these lesions with evidence of 
cavitation. Bronchoscopy lavage samples positive for aspergillus 
on two different samples. He was discharged on isavuconazole and 
continued on prophylactic Bactrim with stable platelet count.

# Lower extremity edema
Mr. ___ presented with worsening ___ lower extremity edema 
that improved significantly with elevation. LENIs without 
evidence of clot. Ultimately attributed to multifactorial low 
albumin due to GI-GVHD and side effect of steroids. Improved 
with diuresis with IV diuretics and reduction in prednisone 
dosing.

# AML s/p alloHSCT
# GI-GVHD
Mr. ___ was continued on his home tacrolimus, ruxolitinib, 
and budesonide. His prednisone was adjusted as specified below.

CHRONIC ISSUES
==============
# C. dif colitis - Mr. ___ was continued on his home 
prophylaxis of oral vanc that was scheduled to finish on 
___, last dose given before discharge.

# CMV viremia - Mr. ___ was continued on his home 
prophylaxis.

TRANSITIONAL ISSUES
===================
[] patient was able to regain insurance while inpatient and get 
needed medications, please continue to make sure he has enough 
of his meds at home
[] valganciclovir 900mg PO qd for 12 weeks per outpatient ID 
currently finishing week 9, stop after first week of ___ minutes spend on discharge planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atovaquone Suspension 1500 mg PO DAILY 
2. Budesonide 3 mg PO TID 
3. FoLIC Acid 1 mg PO DAILY 
4. LORazepam 1 mg PO BID:PRN anxiety 
5. Multivitamins 1 TAB PO DAILY 
6. Nicotine Patch 21 mg/day TD DAILY 
7. Pantoprazole 40 mg PO Q12H 
8. Posaconazole Delayed Release Tablet 300 mg PO DAILY 
9. Tacrolimus 0.5 mg PO QAM 
10. Tacrolimus 0.5 mg PO QPM 
11. ValGANCIclovir 900 mg PO DAILY 
12. Vitamin D ___ UNIT PO 1X/WEEK (WE) 
13. ruxolitinib 5 mg PO BID 
14. PredniSONE 15 mg PO DAILY 
15. CefTRIAXone 2 gm IV Q 24H 
16. Daptomycin 750 mg IV Q24H 
17. Vancomycin Oral Liquid ___ mg PO BID 
18. LOPERamide 2 mg PO QID:PRN Diarrhea 

 
Discharge Medications:
1.  Isavuconazonium Sulfate 372 mg PO DAILY  
2.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth once a day Disp #*30 Tablet Refills:*1 
3.  PredniSONE 10 mg PO DAILY 
RX *prednisone 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
4.  Budesonide 3 mg PO TID  
5.  FoLIC Acid 1 mg PO DAILY  
6.  LOPERamide 2 mg PO QID:PRN Diarrhea 
RX *loperamide 2 mg 2 ml by mouth four times a day Disp #*30 
Capsule Refills:*1 
7.  LORazepam 1 mg PO BID:PRN anxiety 
RX *lorazepam [Ativan] 1 mg 1 ml by mouth twice a day Disp #*30 
Tablet Refills:*1 
8.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin [Daily Multi-Vitamin]  1 capsule(s) by mouth 
once a day Disp #*30 Tablet Refills:*3 
9.  Nicotine Patch 21 mg/day TD DAILY 
RX *nicotine 21 mg/24 hour one patch to skin once a day Disp 
#*30 Patch Refills:*0 
10.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet by mouth twice a day Disp #*60 
Tablet Refills:*1 
11.  ruxolitinib 5 mg PO BID  
12.  Tacrolimus 0.5 mg PO QPM  
13.  Tacrolimus 0.5 mg PO QAM  
14.  ValGANCIclovir 900 mg PO DAILY 
RX *valganciclovir 450 mg 2 tablet(s) by mouth once a day Disp 
#*60 Tablet Refills:*1 
15.  Vitamin D ___ UNIT PO 1X/WEEK (WE) 
RX *ergocalciferol (vitamin D2) [Drisdol] 50,000 unit 1 
capsule(s) by mouth once weekly Disp #*12 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
======================
- Multifocal pneumonia
- Cavitary pulmonary nodules secondary to aspergillosis
- Lower extremity edema

SECONDARY DIAGNOSIS
======================
- Acute myelogenous leukemia
- Graft versus host disease
- CMV reactivation
- ___ cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

WHY WERE YOU ADMITTED TO THE HOSPITAL?  
- You had swelling in your legs and abnormal imaging on your CT 
CHEST. 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
- You were given antibiotics to treat your pneumonia
- You had a procedure known as a bronchoscopy performed to 
figure out why you had the abnormal lung findings
- Findings from the bronchoscopy showed that you are growing a 
fungus called aspergillus in your lungs and were given a new 
antifungal for that
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  

Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___. We 
wish you all the best,

- Your ___ Care Team  

 
Followup Instructions:
___